US07741341B2
50 mg (0.08 mmol) 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-3H-benzoimidazole-5-carboxylic acid were dissolved in 10 mL CH2Cl2. Subsequently 3 mg DMAP, 23 mg (0.11 mmol) DCC and 46 μl (0.83 mmol) ethylene glycol were added. The resulting mixture was stirred at room temperature for 16 h and then concentrated under removed pressure. The remaining residue was purified by preparative HPLC (CH3CN/H2O gradient+0.05% formic acid) to give pure 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-3H-benzoimidazole-5-carboxylic acid 2-hydroxy-ethyl ester as a white amorphous solid. The corresponding dihydrochloride was obtained by treatment with a 0.1 M HCl-solution and following lyophilization.

reactant | 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-3H-benzoimidazole-5-carboxylic acid | 0.08 mmol, 50 mg | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=NC2=C1C=C(C=C2)C(=O)O)C(NC2CCN(CC2)C(C)C)=O | C25H26ClN5O4S
reactant | DCC | 0.11 mmol, 23 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | ethylene glycol | 0.83 mmol, 46 μl | C(CO)O | C2H6O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-3H-benzoimidazole-5-carboxylic acid 2-hydroxy-ethyl ester | OCCOC(=O)C1=CC2=C(N=C(N2CC2=NOC(=C2)C=2SC(=CC2)Cl)C(NC2CCN(CC2)C(C)C)=O)C=C1 | C27H30ClN5O5S
